US08461157B2
Step 134c: 2-({2-[3-(2-Hydroxy-ethoxy)-phenyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl}-methyl-amino)-pyrimidine-5-carboxylic acid ethyl ester (Compound 0603-289)
A mixture of 0602-289 (1.94 g, 5.1 mmol), 0504 (0.5079 g, 1.3 mmol) and NaHCO3 (0.323 g, 3.8 mmol) were taken into 10 ml toluene (10 mL), ethanol (6.4 mL) and water (2.8 mL) followed the addition of Pd(PPh3)2Cl2 (54 mg). The resulting mixture was heated at 120° C. overnight. TLC showed the reaction complete. The reaction mixture was filtered through celite and washed with dichloromethane. The crude product was purified by column chromatography eluted with hexanes/ethyl acetate to afford 2-[(2-{3-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-phenyl}-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-methyl-amino]-pyrimidine-5-carboxylic acid ethyl ester (0.71 g, 83%) as an off-white solid. LC-MS: 665 [M+1]+. 2-[(2-{3-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-phenyl}-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-methyl-amino]-pyrimidine-5-carboxylic acid ethyl ester (680 mg, 1.02 mmol) was taken into THF (20 mL) followed by the addition of tetrabutyl ammonium fluoride (533 mg, 2.04 mmol). The resulting mixture was stirred at room temperature for 30 min. TLC showed reaction complete. Reaction mixture was diluted with ethyl acetate, washed with water and dried with Na2SO4. The crude product was purified by column chromatography eluted with hexanes/ethyl acetate to afford titled compound as an off-white solid (540 mg, 96%). m.p.: 216-220° C. LC-MS: 551.3 [M+1]+. 1H NMR (400 MHz, CDCl3): δ 1.38 (t, J=6.8 Hz, 3H), 3.31 (s, 3H), 3.86 (t, J=5.2 Hz, 4H), 3.99-4.02 (m, 6H), 4.20 (t, J=4.4 Hz, 2H), 4.37 (q, J=7.2 Hz, 2H), 5.19 (s, 2H). 7.01 (dd, J=8 Hz, 2 Hz, 1H), 7.35-7.39 (m, 2H). 8.01-8.05 (m, 2H), 8.92 (s, 2H).

reactant | 2-[(2-{3-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-phenyl}-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-methyl-amino]-pyrimidine-5-carboxylic acid ethyl ester | 1.02 mmol, 680 mg | C(C)OC(=O)C=1C=NC(=NC1)N(C)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C1=CC(=CC=C1)OCCO[Si](C)(C)C(C)(C)C | C33H44N6O5SSi
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | tetrabutyl ammonium fluoride | 2.04 mmol, 533 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-({2-[3-(2-Hydroxy-ethoxy)-phenyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl}-methyl-amino)-pyrimidine-5-carboxylic acid ethyl ester | 540 mg, 96% | C(C)OC(=O)C=1C=NC(=NC1)N(C)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C1=CC(=CC=C1)OCCO | C27H30N6O5S
